Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ female with history of depression 
in remote past and osteoarthritis who presents as transfer from 
OSH for postoperative anemia.

The patient underwent left THR at an outpatient ___ 
___ in ___. Postoperatively she had dizziness and had 
SBP ___ in the PACU. She received 5L of IVF and 1 unit of PRBC 
in the PACU and was sent to ___ ED. There, she 
had HCT 20.5, while her pre-operative HCT was 39.3 on ___. 
She was given 2 additional units of PRBC at ___ 
ED. She was then transferred to ___ ED.

Per the ED physician discussion with the outpatient surgeon, 
there was only 400 cc blood loss during the operation.

She did NOT receive any further volume resuscitation during her 
stay in the ___ ED from arrival at 10PM on ___ to now 9AM ___ 
and her vitals continued to be stable 90-100/40-50 BP, HR ___. 
Her Hgb trended from 8.8 to 7.6 during that 11 hour time period, 
however, so the ED recommended admission (they were initially 
planning to discharge home if the H/H remained stable).

On interview of the patient she says she had 
lightheadedness/general weakness yesterday but felt better after 
blood was given yesterday, then overnight felt some of that 
feeling creep back in. Her left hip pain is not too bad. She has
no fever, chest pain, dyspnea, headache, abdominal pain, nausea, 
vomiting, or diarrhea.

ED: given IV cefazolin, oxycodone x 1, Tylenol

 
Past Medical History:
Depression
Osteoarthritis, s/p L THR on ___

 
Social History:
___
Family History:
MI in brother
CAD in mother and father

 
Physical Exam:
Admission exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. Left hip dressing intact
no ecchymosis
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.

Discharge exam
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. Left hip dressing intact
no ecchymosis, slightly TTP over incision and medial to incision
PSYCH: pleasant, appropriate affect
NEUROLOGIC: alert and cooperative. Oriented to person and place 
and time.

 
Pertinent Results:
Admission labs
___ 10:50PM BLOOD WBC-13.9* RBC-2.85* Hgb-8.8* Hct-26.8* 
MCV-94 MCH-30.9 MCHC-32.8 RDW-12.2 RDWSD-41.7 Plt ___
___ 10:49PM BLOOD Glucose-151* UreaN-8 Creat-0.4 Na-140 
K-4.5 Cl-102 HCO3-24 AnGap-14

Discharge labs
___ 08:11AM BLOOD WBC-6.9 RBC-3.22* Hgb-9.7* Hct-29.4* 
MCV-91 MCH-30.1 MCHC-33.0 RDW-14.2 RDWSD-47.9* Plt ___
___ 08:11AM BLOOD ___ PTT-28.3 ___
___ 08:11AM BLOOD Glucose-155* UreaN-8 Creat-0.4 Na-140 
K-3.9 Cl-100 HCO3-28 AnGap-12

CT A/P ___
IMPRESSION: 

1. Left thigh fluid collection, likely hematoma, measuring 5 x 1 
x 13 cm (CC, not completely included in the study) related to 
recent left total hip replacement.  Postsurgical changes along 
the left leg also seen.  No evidence of active extravasation. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with history of depression 
in remote past and osteoarthritis who presents as transfer from 
OSH for postoperative anemia.

#S/p left THR (done ___
#Acute blood loss anemia - Her baseline hgb is 13.4 based on 
outpatient notes, drawn
___. Her hgb postop on ___ was 6.8. After 3u PRBC and 5L IVF 
she has hgb of 8.8 on ___, but dropped to 7.6 on ___. She was 
given an additional 2U PRBC after this with appropriate response 
to 9.7 on ___. She remained hemodynamically stable during this 
time with SBP 90-100s. Patient had CT A/P to assess for source 
of blood loss which revealed hematoma in L thigh which was 
likely source. Ortho was consulted and did not recommend 
surgical intervention. Per Ortho, ok to resume ASA 325 BID which 
she was discharged on. They recommended WBAT to LLE. Patient 
will have repeat CBC drawn with PCP to ensure blood counts 
stable next week. 

Transitional issues
[ ] repeat CBC next week

Greater than 30 minutes were spent providing and coordinating 
care for this patient on day of discharge.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild  
2.  Aspirin 325 mg PO BID  
3.  Ondansetron ODT 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every 8 hours as 
needed Disp #*20 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
5.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [ClearLax] 17 gram 1 powder(s) by 
mouth daily Disp #*30 Packet Refills:*0 
6.  Senna 8.6 mg PO BID  
7.  TraMADol 25 mg PO Q4H:PRN Pain - Moderate  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Post-operative hematoma
Anemia ___ acute blood loss and hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___

___ were admitted for low blood counts after your surgery. ___ 
were found to have a large hematoma or pocket of blood near your 
surgical site which was the cause of bleeding and blood loss. 
Your blood counts stabilized after several blood transfusions. 
Please have your blood counts checked by your primary doctor 
next week to ensure they remain stable. 

Thank ___ for allowing us to participate in your care
Your ___ team
 
Followup Instructions:
___